US05064826
To the solution of 6.5 g (0.05 mole) of 5-amino-3-methylthio-1H-1,2,4-triazole, 2.5 ml of acetic acid and 12.5 ml of dimethylformamide 9.4 g (0.05 mole) of ethyl 3-oxo-3,4,5,6-tetrahydro-2H-thiopyrane-2-carboxylate are added and the reaction mixture is boiled for 60 minutes. The precipitated product is filtered off from the hot solution, then washed with acetic acid and i-propanol and recrystallized from dimethylformamide. Thus 6.5 g (51.1%) of 2-methylthio-5,7,8,9-tetrahydrothiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one are obtained. M.p.: higher than 350° C.

reactant | 5-amino-3-methylthio-1H-1,2,4-triazole | 0.05 mole, 6.5 g | NC1=NC(=NN1)SC | C3H6N4S
reactant | dimethylformamide | 0.05 mole, 12.5 ml, 9.4 g | CN(C=O)C | C3H7NO
reactant | ethyl 3-oxo-3,4,5,6-tetrahydro-2H-thiopyrane-2-carboxylate | O=C1C(SCCC1)C(=O)OCC | C8H12O3S
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 2-methylthio-5,7,8,9-tetrahydrothiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 6.5 g, 51.1% | CSC1=NN2C(NC3=C(C2=O)SCCC3)=N1 | C9H10N4OS2
